US08614234B2
To a stirred solution of methyl 4-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}thiophene-2-carboxylate (550 mg, 1.15 mmol) in a mixture of solvents—THF/MeOH (20 ml/20 ml) was added 1 ml of 5M NaOH (5 mmol) solution. The mixture was heated in a 66° C. bath for 2 hours, cooled to room temperature and poured into 200 ml of water. 2M HCl was added until pH=5. The resulting precipitates were filtered, washed with water, and dried in vacuo to give 4-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}thiophene-2-carboxylic acid as off-white solid. Yield: 520 mg, 97%.

reactant | methyl 4-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}thiophene-2-carboxylate | 1.15 mmol, 550 mg | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=CC(=NC=C2)C=2C=C(SC2)C(=O)OC)C=C1 | C25H20FN3O4S
reactant | NaOH | 5 mmol, 5M, 1 ml | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | water | 200 ml | O | H2O
product | 4-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}thiophene-2-carboxylic acid | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=CC(=NC=C2)C=2C=C(SC2)C(=O)O)C=C1 | C24H18FN3O4S
